US09422290B2
(4-Bromo-2-methyl-2H-pyrazol-3-yl)-phenyl-methanol
4-Bromo-2-methyl-2H-pyrazole-3-carbaldehyde (1.00 g; 5.29 mmol) was dissolved in 5.0 ml of anhydrous THF and cooled down to −78° C. Phenylmagnesium chloride 2 mol/l (6.61 ml; 13.23 mmol) was dropped and stirred for 1 hour. It was warmed up to 0° C. and quenched carefully with water, then extracted with DCM. The organic layers were pooled, dried over MgSO4 and purified by using reversed phase chromatography under basic conditions.

reactant | 4-Bromo-2-methyl-2H-pyrazole-3-carbaldehyde | 5.29 mmol, 1.00 g | BrC1=C(N(N=C1)C)C=O | C5H5BrN2O
reactant | Phenylmagnesium chloride | 13.23 mmol, 2 mol/l, 6.61 ml | C1(=CC=CC=C1)[Mg]Cl
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
product | (4-Bromo-2-methyl-2H-pyrazol-3-yl)-phenyl-methanol | BrC1=C(N(N=C1)C)C(O)C1=CC=CC=C1 | C11H11BrN2O
